US08022222B2
Step D: Preparation of 3-(2-chloropyridin-4-yloxy)isonicotinonitrile:
A flask was charged with sodium hydride (3.99 g, 158 mmol) and DMF (50 mL), and 3-hydroxyisonicotinonitrile (15.8 g, 132 mmol) was added. The reaction was stirred for 2 hours at ambient temperature. 2-Chloro-4-nitropyridine (21.9 g, 138 mmol) was added and the reaction was and stirred overnight. Water was added and the reaction was extracted with ethyl acetate. The organic layer was dried and concentrated. The crude product was purified by silica gel chromatography, eluting with DCM, 5% ammoniated methanol in DCM to give the desired product (0.250 g, 0.820% yield) as yellow solid.

reactant | sodium hydride | 158 mmol, 3.99 g | [H-].[Na+]
reactant | DMF | 50 mL | CN(C)C=O | C3H7NO
reactant | 3-hydroxyisonicotinonitrile | 132 mmol, 15.8 g | OC1=C(C#N)C=CN=C1 | C6H4N2O
reactant | 2-Chloro-4-nitropyridine | 138 mmol, 21.9 g | ClC1=NC=CC(=C1)[N+](=O)[O-] | C5H3ClN2O2
solvent | Water | O | H2O
product | 3-(2-chloropyridin-4-yloxy)isonicotinonitrile | 0.250 g, 0.820% yield | ClC1=NC=CC(=C1)OC1=C(C#N)C=CN=C1 | C11H6ClN3O
